US05811389
21.7 ml of tert-butyllithium solution (1.4M in pentane) were slowly added dropwise under argon at -78° to a solution of 5.0 g (23.4 mmol) of 10-methylphenothiazine in 10 ml of absolute diethyl ether and 7 ml of freshly distilled N,N,N',N'-tetramethylethylenediamine. The reaction mixture was subsequently brought slowly to room temperature, stirred for 18 hours, then cooled to 0° and thereupon treated with 3.90 ml (35.1 mmol) of N-formylpiperidine. The reaction mixture was stirred at room temperature for 2 hours and then poured into 50 g of ice, 50 ml of 0.1N aqueous hydrochloric acid solution and 1.50 ml of diethyl ether. The aqueous phase was extracted twice with 100 ml of diethyl ether and the combined organic fractions were dried over magnesium sulphate and concentrated. The residue was chromatographed on 500 g of silica gel with ethyl acetate/hexane (1:3), whereafter, after recrystallization from ethyl acetate/hexane, 4.20 g (74.4%) of 10-methylphenothiazine-4-carbaldehyde were obtained as a yellow solid of m.p. 103°.

reactant | tert-butyllithium | 1.4M, 21.7 ml | C(C)(C)(C)[Li]
reactant | 10-methylphenothiazine | 23.4 mmol, 5.0 g | CN1C2=CC=CC=C2SC=2C=CC=CC12 | C13H11NS
reactant | N,N,N',N'-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | N-formylpiperidine | 35.1 mmol, 3.90 ml | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | 0.1N, 50 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.50 ml | C(C)OCC | C4H10O
product | 10-methylphenothiazine-4-carbaldehyde | 4.20 g, 74.4% | CN1C2=CC=CC=C2SC=2C(=CC=CC12)C=O | C14H11NOS
